US07202251B2
Step A. 1-(4-Bromo-1,3-thiazol-2-yl)-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 2-hydroxybenzimidazole (1.20 g, 8.95 mmol), 2,4-dibromothiazole (6.5 g, 26.8 mmol), copper powder (1.42 g, 22.37 mmol), CuCl (177 mg, 1.79 mmol), and KOAc (2.2 g, 22.37 mmol) in pyridine (10 mL) were heated at 60° C. for 2 h. The cooled mixture was partitioned between EtOAc (40 mL) and 10% aqueous citric acid (20 mL) and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 50:50, to give the title compound. MS: m/z=297 (M+1).

reactant | 2-hydroxybenzimidazole | 8.95 mmol, 1.20 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | 2,4-dibromothiazole | 26.8 mmol, 6.5 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | KOAc | 22.37 mmol, 2.2 g | CC(=O)[O-].[K+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 22.37 mmol, 1.42 g | [Cu] | Cu
catalyst | CuCl | 1.79 mmol, 177 mg | Cl[Cu]
product | 1-(4-Bromo-1,3-thiazol-2-yl)-1,3-dihydro-2H-benzimidazol-2-one | BrC=1N=C(SC1)N1C(NC2=C1C=CC=C2)=O | C10H6BrN3OS
